US08476253B2
Methyl 4-{[(4-hydroxybenzyl)amino]methyl}benzoate
Methyl 4-(Aminomethyl)benzoate (6.88 g, 34.2 mmol) and 4-hydroxybenzaldehyde (4.60 g, 37.7 mmol) were dissolved in ethanol (300 mL), the mixture was heated to reflux for 6 hours, sodium borohydride (2.07 g, 54.7 mmol) was added at room temperature, and the mixture was stirred at room temperature for 1 hour. After the reaction was completed, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with dichloromethane. The resulting organic layer was washed with saturated sodium chloride solution and dried with anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was reprecipitated with dichloromethane-hexane to give the title compound (4.90 g; yield, 52%) as a white solid.

reactant | Methyl 4-(Aminomethyl)benzoate | 34.2 mmol, 6.88 g | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | 4-hydroxybenzaldehyde | 37.7 mmol, 4.60 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium borohydride | 54.7 mmol, 2.07 g | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | Methyl 4-{[(4-hydroxybenzyl)amino]methyl}benzoate | 4.90 g, 52% | OC1=CC=C(CNCC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H17NO3
